US05672588
(R)-1-(4-fluorophenoxy)-2-propylamine (0.29 g, 1.4 mmol)(prepared from 4-fluorophenol by the method desrcribed in example 2) was reacted with 9-(2',3',5'-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (0.89 g, 1.4 mmol) in dioxan (30 ml) in the presence of triethylamine (0.42 g, 3 mmol). The reaction mixture was stirred at room temperature for 18 h, and heated at 60° C. for 4 h. The reaction mixture was filtered and evaporated to a residue which was purified by flash chromatography. The resultant 2',3',5'-tri- O-benzoyl-2-chloro- N-[(R)-1-(4-fluorophenoxy)-2-propyl]adenosine was deprotected using methanolic ammonia to provide the title 2-chloro- N-[(R)-1-(4-fluorophenoxy)-2-propyl]adenosine (0.21 g, 40%)(after column chromatography), mp 172°-173° C.; 1H NMR (DMSO-d6)δ 1.29 (3H, d, --CH3), 3.52-3.60 (1H, m, H-5'a), 3.64-3.72 (1H, m, H-5'b), 3.92-4.00 (2H, m, H-4' and --C--H), 4.05-4.20 (2H, m, H-3' and --C--H), 4.53 (1H, m, H-2'), 4.65 (1H, m, --CH3C H--), 5.08, 5.24, 5.50 (3H, 3 br, 2', 3' and 5'-OH), 5.86 (1H, d, H-1'), 6.89-7.15 (4H, 2 m, Ar--H), 8.30-8.46 (2H, m, H-8 and N--H).

reactant | (R)-1-(4-fluorophenoxy)-2-propylamine | 1.4 mmol, 0.29 g | FC1=CC=C(OC[C@@H](C)N)C=C1 | C9H12FNO
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 9-(2',3',5'-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 1.4 mmol, 0.89 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | triethylamine | 3 mmol, 0.42 g | C(C)N(CC)CC | C6H15N
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 2-chloro- N-[(R)-1-(4-fluorophenoxy)-2-propyl]adenosine | 0.21 g, 40% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](COC1=CC=C(C=C1)F)C | C19H21ClFN5O5
